US07238716B2
A mixture of (2-benzyloxy-5-methoxymethoxyphenyl)methanol (8.0 g), triphenylphosphine (7.66 g), carbon tetrabromide (9.68 g) and N,N-dimethylformamide (100 mL) was stirred at room temperature for 1.5 hrs. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (4.49 g, 46%) of 1-benzyloxy-2-bromomethyl-4-methoxymethoxybenzene from a fraction eluted with ethyl acetate-hexane (1:4, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 55-57° C.

reactant | (2-benzyloxy-5-methoxymethoxyphenyl)methanol | 8.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCOC)CO | C16H18O4
reactant | triphenylphosphine | 7.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 9.68 g | C(Br)(Br)(Br)Br | CBr4
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-benzyloxy-2-bromomethyl-4-methoxymethoxybenzene | 4.49 g, 46% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCOC)CBr | C16H17BrO3
